US04582824
In 50 ml of toluene is dissolved 5.13 g of n-hexadecanoic acid, and 5.5 g of diphenylphosphorylazide and 3 ml of triethylamine are added. The mixture is stirred for 2 hours and further refluxed for one hour. After cooling, the mixture is dissolved in 20 ml of dichloromethane and the solution is added to 20 ml of dichloromethane containing 4.2 g of 2-methylglycerin is added dropwise over a period of 30 minutes. Then, the mixture is refluxed for 2 hours, followed by addition of 200 ml of ice-water. The mixture is stirred vigorously. The dichloromethane layer is separated, dried over sodium sulfate and concentrated to dryness. The residue is subjected to chromatography on a silica gel (60 g) column [eluent: ethyl acetate-n-hexane (1:1)] to give 5.25 g (yield: 73%) of 2-methyl-3-pentadecylcarbamoylglycerin as a colorless powder.

reactant | n-hexadecanoic acid | 5.13 g | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | diphenylphosphorylazide | 5.5 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methylglycerin | COC(CO)CO | C4H10O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml, 4.2 g | ClCCl | CH2Cl2
product | 2-methyl-3-pentadecylcarbamoylglycerin | 5.25 g, yield: 73% | COC(CO)COC(NCCCCCCCCCCCCCCC)=O | C20H41NO4
